US07368578B2
To a mixture of methyl 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol2-yl)oxy]methyl}-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate (33.0 g), tetraethyl methylenediphosphonate (18.91 g) and N,N-dimethylformamide (300 mL) was added sodium hydride (60% in oil, 2.86 g) at 0° C., and the mixture was stirred at room temperature for 15 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give methyl 3-[4-({4-[({4-[(Z)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoate as colorless crystals (1.82 g, yield 4.4%) from a fraction eluted with acetone-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 112-113° C.

reactant | methyl 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol2-yl)oxy]methyl}-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate | 33.0 g | C(=O)C=1CN(N(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C(=O)OC)C=CC2)C=C1)OC | C31H29N3O7
reactant | tetraethyl methylenediphosphonate | 18.91 g | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 2.86 g | [H-].[Na+]
solvent | Water | O | H2O
product | methyl 3-[4-({4-[({4-[(Z)-2-(diethoxyphosphoryl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoate | 1.82 g, yield 4.4% | C(C)OP(=O)(OCC)\C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C(=O)OC)C=CC2)C=C1)OC | C36H38N3O9P
